US05965741
To a solution of methyl 3-formyl-4-hydroxybenzoate (3.55 g, 19.7 mmol) in DMF (20 ml) was added benzyl bromide (3.70 g, 21.67 mmol) and K2CO3 (4.1 g, 29.6 mmol). The reaction was stirred at ambient temperature overnight and the solvent evaporated to dryness (at reduced pressure). The residue was partitioned between ethyl ether and water and the aqueous layer extracted a second time with ethyl ether. The organic extracts were combined, washed with brine, dried (MgSO4 ) and evaporated to give methyl 3-formyl-4-benzyloxybenzoate as an off-white solid which was used without further purification.

reactant | methyl 3-formyl-4-hydroxybenzoate | 19.7 mmol, 3.55 g | C(=O)C=1C=C(C(=O)OC)C=CC1O | C9H8O4
reactant | benzyl bromide | 21.67 mmol, 3.70 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 29.6 mmol, 4.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | methyl 3-formyl-4-benzyloxybenzoate | C(=O)C=1C=C(C(=O)OC)C=CC1OCC1=CC=CC=C1 | C16H14O4
